US05726306
In 5 ml of dimethylformamide was dissolved 1.0 g of trans-1-benzyl-7-chloro-5-(2-chlorophenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid obtained obtained in Reference Example 5. To the solution was added 0.3 ml of triethylamine, to which was added dropwise, while stirring under ice-cooling, 0.6 g of diphenylphosphoryl azide. The reaction mixture was stirred for one hour at room temperature, which was then poured into ice-water. The mixture was subjected to extraction with ether. The organic layer was washed with water and dried, which was then concentrated under reduced pressure. The concentrate was dissolved in 100 ml of benzene, which was heated for 30 minutes under reflux. The reaction mixture was concentrated under reduced pressure. To the concentrate was added 6 ml of conc. hydrochloric acid, and the mixture was heated for one hour under reflux. The reaction mixture was concentrated under reduced pressure. The concentrate was made alkaline by the addition of a 5% aqueous solution of potassium carbonate, followed by extraction with ethyl acetate. The organic layer was washed with water and dried, then the solvent was distilled off under reduced pressure. To the residue was added an ethanol solution of 4N hydrochloric acid to lead it to hydrochloride to give 0.85 g of [trans-1-benzyl-7-chloro-5-(2-chlorophenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-yl]methylamine hydrochloride as crystals, m.p. 245°-250° C.

reactant | trans-1-benzyl-7-chloro-5-(2-chlorophenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 1.0 g | C(C1=CC=CC=C1)N1C([C@H](O[C@@H](C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)Cl)CC(=O)O)=O | C24H19Cl2NO4
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.6 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | [trans-1-benzyl-7-chloro-5-(2-chlorophenyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-yl]methylamine hydrochloride | 0.85 g | Cl.C(C1=CC=CC=C1)N1C([C@H](O[C@@H](C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)Cl)CN)=O | InChI=1S/C23H20Cl2N2O2.ClH/c24-16-10-11-20-18(12-16)22(17-8-4-5-9-19(17)25)29-21(13-26)23(28)27(20)14-15-6-2-1-3-7-15;/h1-12,21-22H,13-14,26H2;1H/t21-,22-;/m1./s1
